US06573270B1
4-(1,3-benzodioxol-5-yl)-3-(cyclopropylmethoxy)-1-methyl-1H-pyrazol-5-ylamine
To 5-amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-ol (500 mg) (Preparation 46) in anhydrous dimethylformamide (21 ml) under an atmosphere of nitrogen at room temperature was added solid potassium carbonate (980 mg) and bromomethylcyclopropane (230 μl). The mixture was stirred overnight then quenched by the addition of water (100 ml) and a saturated aqueous solution of ammonium chloride (50 ml). The solution was extracted with ethyl acetate (3×40 ml). The organic fraction was dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography (silica, 30 g) eluted with hexane:ethyl acetate (1:2) to yield the title compound as a colourless oil (365 mg).

reactant | 5-amino-4-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrazol-3-ol | 500 mg | NC1=C(C(=NN1C)O)C1=CC2=C(OCO2)C=C1 | C11H11N3O3
reactant | potassium carbonate | 980 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromomethylcyclopropane | 230 μl | BrCC1CC1 | C4H7Br
solvent | dimethylformamide | 21 ml | CN(C=O)C | C3H7NO
product | 4-(1,3-benzodioxol-5-yl)-3-(cyclopropylmethoxy)-1-methyl-1H-pyrazol-5-ylamine | 365 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2N)C)OCC2CC2 | C15H17N3O3
